US04242507
In benzene (50 ml) are dissolved 1-hydroxy-1,2,3-benzotriazole (6.8 g) and triethylamine (7.0 ml) and thereto is added dropwise a solution of n-butanesulfonyl chloride (7.8 g) in benzene (10 ml) at room temperature and the mixture is stirred for 4 hours. After the reaction, the benzene layer is separated, washed with water, dried over anhydrous magnesium sulfate and then concentrated to give 1-(n-butanesulfonyloxy)-1,2,3-benzotriazole (12.3 g) as an oily substance. Infrared spectrum (film): 1395, 1175 cm-1.

reactant | 1-hydroxy-1,2,3-benzotriazole | 6.8 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 7.0 ml | C(C)N(CC)CC | C6H15N
reactant | n-butanesulfonyl chloride | 7.8 g | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 1-(n-butanesulfonyloxy)-1,2,3-benzotriazole | 12.3 g | C(CCC)S(=O)(=O)ON1N=NC2=C1C=CC=C2 | C10H13N3O3S
